US04221730
A. 3-[[(4-Nitrophenyl)sulfonyl]amino]benzamide
A solution containing 44 g (0.32 m) of 3-aminobenzamide, 71.6 g (0.32 m) of p-nitrobenzenesulfonyl chloride and 700 ml of pyridine was stirred and heated on a steam bath for 2.5 hours, then poured into ice water. Acetic acid was added to a pH 5.0-6.0 and the resulting solid collected by filtration, washed with water and air-dried to give 105 g, m.p. 240°-244°.

reactant | 3-aminobenzamide | 44 g | NC=1C=C(C(=O)N)C=CC1 | C7H8N2O
reactant | p-nitrobenzenesulfonyl chloride | 71.6 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | pyridine | 700 ml | N1=CC=CC=C1 | C5H5N
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | 3-[[(4-Nitrophenyl)sulfonyl]amino]benzamide | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)N)C=CC1 | C13H11N3O5S
